US04284755
N-(3'-Cyclohexylaminopropyl)-aspartic acid-4-ethyl ester
In a manner analogous to that of Example 1, 394.3 g (2.4 mols+14% excess) of maleic acid-monoethyl ester are placed into the glass flask, and 480 ml of triethylamine are added dropwise with cooling. There are subsequently added 372.6 g (2.4 mols) of 3-cyclohexylaminopropylamine, and the reaction mixture is reacted for 25 minutes at 84°-86° C. It is further processed according to Example 1 and the yield is 546.8 g (75.7% of theory) of a white crystalline aspartic acid derivative, which decomposes at 152° C.

reactant | maleic acid-monoethyl ester | 2.4 mols, 394.3 g | C(C)OC(\C=C/C(=O)O)=O | C6H8O4
reactant | 3-cyclohexylaminopropylamine | 2.4 mols, 372.6 g | C1(CCCCC1)NCCCN | C9H20N2
reactant | aspartic acid | yield is 546.8 g | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
solvent | triethylamine | 480 ml | C(C)N(CC)CC | C6H15N
product | N-(3'-Cyclohexylaminopropyl)-aspartic acid-4-ethyl ester | C(C)OC(C[C@H](NCCCNC1CCCCC1)C(=O)O)=O | C15H28N2O4
